US05162316
7-Ethoxy-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine
A solution of 7-methylsulphonyl-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (0.50 g) in sodium ethoxide solution (from sodium, 0.16 g, and ethanol, 25 ml) was stirred at ambient temperature for 1.5 hours. Cooling and acidification of the reaction mixture with glacial acetic acid (0.42 g) yielded a precipitate which was twice recrystallised from ethanol to yield the title compound, 0.29 g, m.p. 196°-197.5° C.

reactant | 7-methylsulphonyl-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 0.50 g | CS(=O)(=O)C1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O4S
reactant | acetic acid | 0.42 g | C(C)(=O)O | C2H4O2
solvent | sodium ethoxide | 25 ml, 0.16 g | [O-]CC.[Na+]
product | 7-Ethoxy-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | C(C)OC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C17H18N4O3
